US05081274
In 5 ml of acetic anhydride was dissolved 5.0 g of 2,6-dibromophenol and, one drop of conc. sulfuric acid was added to the solution. While sometimes manually shaking, the mixture was stirred. When generation of heat stopped, the solution was poured onto 50 ml of ice water and the precipitated crystals of acetic acid-2,6-dibromophenyl were taken by filtration. The crystals were washed with chilled water and dried under reduced pressure. Next, this acetic acid-2,6-dibromophenyl was dissolved in 20 ml of nitrobenzene and 4.0 g of powdery aluminum chloride was gradually added to the solution. The reaction was carried out at 60° to 70° C. for 50 hours to effect Fries rearrangement. After completion of the reaction, the reaction solution was poured onto 100 ml of cold dil. hydrochloric acid. After allowing to stand at 5° C. overnight, the precipitated crystals were taken out by filtration, washed with n-hexane and dried under reduced pressure to give 3.87 g of 2,6-dibromo-4-acetylphenol as crude crystals. The crystals were recrystallized from hot ethyl acetate to give 2.42 g of pure 2,6-dibromo-4-acetylphenol as light brown crystals. 2,6-Dibromo-4-acetylphenol (3,5-dibromo-4-hydroxyacetophenone): C8H6Br2O2

reactant | 2,6-dibromophenol | 5.0 g | BrC1=C(C(=CC=C1)Br)O | C6H4Br2O
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 2,6-dibromo-4-acetylphenol | 3.87 g | BrC1=C(C(=CC(=C1)C(C)=O)Br)O | C8H6Br2O2
